US05330991
In 10 ml of methanol, 0.20 g of 3-(4-tertbutylphenyl)-2,7-dimethyl-1,2,3,4-tetrahydroisoquinoline and 0.13g of saccharin were dissolved at room temperature under stirring, and the resulting mixture was left to stand for 3 hours. The solvent was evaporated under reduced pressure to obtain 0.33 g of 3-(4-tertbutylphenyl)-2,7-dimethyl-l,2,3,4-tetrahydroisoquinoline saccharin salt.

reactant | 3-(4-tertbutylphenyl)-2,7-dimethyl-1,2,3,4-tetrahydroisoquinoline | 0.20 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC(=CC=C2C1)C)C | C21H27N
reactant | saccharin | 0.13g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | methanol | 10 ml | CO | CH4O
product | 3-(4-tertbutylphenyl)-2,7-dimethyl-l,2,3,4-tetrahydroisoquinoline saccharin salt | 0.33 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC(=CC=C2C1)C)C | InChI=1S/C21H27N.C7H5NO3S/c1-15-6-7-17-13-20(22(5)14-18(17)12-15)16-8-10-19(11-9-16)21(2,3)4;9-7-5-3-1-2-4-6(5)12(10,11)8-7/h6-12,20H,13-14H2,1-5H3;1-4H,(H,8,9)
